US07442834B2
U.S. Pat. Nos. 4,024,175 and 4,087,544 disclosed that 1-aminomethyl-1-cyclopentane-acetic acid hydrochloride can be prepared by treating 1,1-cyclopentane-diacetic acid monoamide with NaOH/NaBrO followed by HCl. 1,1-cyclopentane-diacetic acid monoamide hydrochloride was obtained by passing the gabapentin HCl salt through an anion exchange column. However, no yield and purity was reported in these patents. Following similar procedures, except with a cation exchange resin for the last step, WO 02/34709 disclosed a method for the preparation of gabapentin with as much as 80% yield. However, the purity of the product again was not disclosed. These methods require a large amount of solvents for the ion exchange process.

reactant | 1-aminomethyl-1-cyclopentane-acetic acid hydrochloride | Cl.NCC1(CCCC1)CC(=O)O
reactant | 1,1-cyclopentane-diacetic acid monoamide | C1(CCCC1)(CC(=O)N)CC(=O)O | C9H15NO3
reactant | HCl | Cl | ClH
product | 1,1-cyclopentane-diacetic acid monoamide hydrochloride | as much as 80% yield | Cl.C1(CCCC1)(CC(=O)N)CC(=O)O | InChI=1S/C9H15NO3.ClH/c10-7(11)5-9(6-8(12)13)3-1-2-4-9;/h1-6H2,(H2,10,11)(H,12,13);1H
